US05627215
b) (E)-1-Isopropyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene
To a solution of 1.5 g (2.5 mmol) of (E)-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec7-ene in 20 ml of DMF there are added, with stirring, 0.4 g (10 mmol) of sodium hydride dispersion (approx. 60%) and, after 15 min., 1 ml (10 mmol) of isopropyl iodide. The reaction mixture is stirred for 16 h at room temperature; a further 0.4 g (10 mmol) of sodium hydride dispersion (approx. 60%) and 1 ml (10 mmol) of isopropyl iodide are added, and the mixture is stirred for a further 24 h at 20° C. and for 24 h at 50° C. and is then concentrated by evaporation in vacuo. Working up analogously to Example 1a), using ethyl acetate-hexane (1:3) and ethyl acetate-hexane (1:2) in the flash chromatography, yields the title compound, Rf value=0.37 (silica gel/ethyl acetate:hexane (2:3)).

reactant | (E)-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec7-ene | 2.5 mmol, 1.5 g | C(=O)(OC(C)(C)C)NCCCN(C\C=C\CN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C30H56N4O8
reactant | sodium hydride | 10 mmol, 0.4 g | [H-].[Na+]
reactant | isopropyl iodide | 10 mmol, 1 ml | C(C)(C)I | C3H7I
reactant | sodium hydride | 10 mmol, 0.4 g | [H-].[Na+]
reactant | isopropyl iodide | 10 mmol, 1 ml | C(C)(C)I | C3H7I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (E)-1-Isopropyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | C(C)(C)N(CCCN(C\C=C\CN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C33H62N4O8
